US04327221
6,7-Dihydro-3-hydroxy-2-phenyl-5H-pyrrolo[2,1-b]thiazolium bromide
A 50 ml. glacial acetic acid solution of 3.0 g. (0.03 m.) 2-pyrrolidinethione and 6.5 g. (0.03 m.) α-bromophenylacetic acid is heated on a steam bath for 5 hours. The solution is cooled and the precipitated solid is collected and washed with acetone and ether. The 7.0 g. of solid is recrystallized from acetonitrile to give 4.2 g. (47% yield) of title compound, m.p. 200°-205° C.

reactant | 2-pyrrolidinethione | N1C(CCC1)=S | C4H7NS
reactant | α-bromophenylacetic acid | BrC(C(=O)O)C1=CC=CC=C1 | C8H7BrO2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6,7-Dihydro-3-hydroxy-2-phenyl-5H-pyrrolo[2,1-b]thiazolium bromide | 47% yield | [Br-].OC=1[N+]2=C(SC1C1=CC=CC=C1)CCC2 | InChI=1S/C12H11NOS.BrH/c14-12-11(9-5-2-1-3-6-9)15-10-7-4-8-13(10)12;/h1-3,5-6H,4,7-8H2;1H
